US09079866B2
(1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-yl)methanol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)methanol. MS (ESI): mass calcd. for C22H23FN4O3S, 442.15; m/z found, 443.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.36-8.29 (m, 2H), 8.11-8.07 (m, 1H), 7.98 (m, 1H), 7.74-7.67 (m, 1H), 7.64-7.59 (m, 1H), 7.44-7.41 (m, 1H), 7.36-7.29 (m, 2H), 3.40-3.32 (m, 4H), 2.46-2.36 (m, 2H), 1.59 (d, J=10.5, 2H), 1.48-1.36 (m, 1H), 1.01-0.89 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)methanol | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)CO | C12H16BrNO3S
product | (1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-yl)methanol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)CO)F | C22H23FN4O3S
